US04298743
Preparation of 4-(4-Bromophenyl)-2-thiazolylacetic Acid Ethyl Ester
A mixture of p-α-dibromoacetophenone (13.9 g, 0.05 mole) and 2-thiocarbamoylacetic acid ethyl ester in ethanol (65 ml) was heated under reflux for 21/2 hours. On cooling, there was obtained the title compound (12.2 g) mp 189°-191° C. (dec). An analytical sample recrystallization from ethanol had mp 191°-193° C.

reactant | p-α-dibromoacetophenone | 0.05 mole, 13.9 g | C1=CC(=CC=C1C(=O)CBr)Br | C8H6Br2O
reactant | 2-thiocarbamoylacetic acid ethyl ester | C(C)OC(CC(N)=S)=O | C5H9NO2S
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | 4-(4-Bromophenyl)-2-thiazolylacetic Acid Ethyl Ester | 12.2 g | C(C)OC(CC=1SC=C(N1)C1=CC=C(C=C1)Br)=O | C13H12BrNO2S
